US09403798B2
1-tert-Butyl 3-methyl 4-[5-(4-chlorobenzyl)-4-oxo-4,5-dihydro-1,3,5-triazin-2-yl]piperazine-1,3-dicarboxylate
To tetrahydrofuran solution (2.3 mL) of 1-tert-butyl 3-methyl piperazine-1,3-dicarboxylate (43 mg, 0.17 mmol), sodium carbonate (37 mg, 0.35 mmol) and 4-chloro-1-(4-chlorobenzyl)-1,3,5-triazin-2(1H)-one (45 mg, 0.17 mmol) synthesized in Reference Synthesis Example 11 were added and the resultant solution was stirred at room temperature for 1 day. After completion of the reaction, water was added thereto and extraction with chloroform from the resultant mixture was performed three times. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure and ethyl acetate was added to the obtained residue. The obtained solid was collected by filtration and dried under reduced pressure to obtain the title compound (34 mg, yield 42%).

reactant | tetrahydrofuran | 2.3 mL | O1CCCC1 | C4H8O
reactant | 1-tert-butyl 3-methyl piperazine-1,3-dicarboxylate | 0.17 mmol, 43 mg | N1(CC(NCC1)C(=O)OC)C(=O)OC(C)(C)C | C11H20N2O4
reactant | sodium carbonate | 0.35 mmol, 37 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chloro-1-(4-chlorobenzyl)-1,3,5-triazin-2(1H)-one | 0.17 mmol, 45 mg | ClC1=NC(N(C=N1)CC1=CC=C(C=C1)Cl)=O | C10H7Cl2N3O
solvent | water | O | H2O
product | 1-tert-Butyl 3-methyl 4-[5-(4-chlorobenzyl)-4-oxo-4,5-dihydro-1,3,5-triazin-2-yl]piperazine-1,3-dicarboxylate | 34 mg, yield 42% | ClC1=CC=C(CN2C(N=C(N=C2)N2C(CN(CC2)C(=O)OC(C)(C)C)C(=O)OC)=O)C=C1 | C21H26ClN5O5
